US07157487B2
(Step 7) Synthesis of 7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetic acid
Methyl 7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetate (1.31 g, 4.17 mmol) was dissolved in THF (30 ml), followed by the addition of 0.25N NaOH (30 ml). The resulting mixture was stirred at room temperature for 20 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl, followed by extraction with a chloroform/methanol (10/1) mixture. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (1.08 g, 86%) was obtained as a pale brown solid.

reactant | Methyl 7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetate | 4.17 mmol, 1.31 g | FC1=C(C=CC=2N=C(OC21)NC2=C(C=CC=C2)C)CC(=O)OC | C17H15FN2O3
reactant | NaOH | 0.25N, 30 ml | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetic acid | FC1=C(C=CC=2N=C(OC21)NC2=C(C=CC=C2)C)CC(=O)O | C16H13FN2O3
